US06759554B2
The general procedure under argon was followed using copper(I) iodide (10 mg, 0.05 mmol), K3PO4 (425 mg, 2.00 mmol), L-proline (138 mg, 1.20 mmol), iodobenzene (112 μL, 1.00 mmol), ethylene glycol (111 μL, 2.00 mmol) and 2-propanol (1.0 mL). After heated for a specified duration, the reaction was allowed to reach room temperature. Water and diluted HCl (10%) was added until ˜pH 3. Diethyl ether (2 mL) was added and the organic layer was analyzed by tlc. The reaction mixture was further extracted by diethyl ether (4×10 mL) and the combined organic phase was washed with brine and dried over Na2SO4. The solvent was rotary evaporated and the yellowish-brown residue was purified by column chromatography using a solvent mixture (diethyl ether/ethyl acetate=1/1, Rƒ=0.2) to afford N-phenyl-L-proline (134 mg, 70% isolated yield) as light yellow solid. The spectral data (1H NMR) matched with the literature references and indicated >95% purity. See Ma, D.; Zhang, Y.; Yao, J.; Wu, S.; Tao, F. J. Am. Chem. Soc. 1998, 120, 12459-12467.

reactant | K3PO4 | 2.00 mmol, 425 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | L-proline | 1.20 mmol, 138 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | iodobenzene | 1.00 mmol, 112 μL | IC1=CC=CC=C1 | C6H5I
reactant | ethylene glycol | 2.00 mmol, 111 μL | C(CO)O | C2H6O2
reactant | HCl | Cl | ClH
catalyst | copper(I) iodide | 0.05 mmol, 10 mg | [Cu]I
solvent | Diethyl ether | 2 mL | C(C)OCC | C4H10O
solvent | Water | O | H2O
solvent | 2-propanol | 1.0 mL | CC(C)O | C3H8O
product | N-phenyl-L-proline | 134 mg, 70% | C1(=CC=CC=C1)N1[C@H](C(=O)O)CCC1 | C11H13NO2
